US06790860B2
3.0 ml (21.7 mmol, 1.2 eq) triethylamine and 6.05 g (22.6 mmol, 1.2 eq) triphenylphosphine were added to a solution of 1.42 ml (21.7 mmol, 1.25 eq) methanesulfonic acid in 60 ml toluene, successively followed by a solution of 7.9 g (18.1 mmol) (2S,4R)-2-[4-hydroxy-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-ylmethyl]-isoindole-1,3-dione in 80 ml toluene/THF (5/3) and 5.06 ml (23.6 mmol, 1.3 eq) DIAD. The suspension was heated to 80° C. for 6 h and stirred at room temperature overnight. After diluting the mixture with EtOAc and water, the phases were separated, and the inorganic one was extracted with EtOAc and CH2Cl2, the combined organic phases were washed with 1M KHSO4 and brine, dried over Na2SO4 and evaporated. Column chromatography with a gradient of CH2Cl2: EtOAc 4:1 to 1:1 yielded 8.3 g (90%) of (3R,5S)-methanesulfonic acid 5-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-yl ester as white crystals.

reactant | triethylamine | 21.7 mmol, 3.0 ml, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 22.6 mmol, 6.05 g, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanesulfonic acid | 21.7 mmol, 1.42 ml, 1.25 eq | CS(=O)(=O)O | CH4O3S
reactant | (2S,4R)-2-[4-hydroxy-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-ylmethyl]-isoindole-1,3-dione | 18.1 mmol, 7.9 g | O[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)CN1C(C2=CC=CC=C2C1=O)=O | C23H20N2O5S
reactant | DIAD | 23.6 mmol, 5.06 ml, 1.3 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene THF | 80 ml | C1(=CC=CC=C1)C.C1CCOC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (3R,5S)-methanesulfonic acid 5-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1-(naphthalene-2-sulfonyl)-pyrrolidin-3-yl ester | 8.3 g, 90% | O=C1N(C(C2=CC=CC=C12)=O)C[C@@H]1C[C@H](CN1S(=O)(=O)C1=CC2=CC=CC=C2C=C1)OS(=O)(=O)C | C24H22N2O7S2
